* (exec-spice "ngspice %s" t)
* actually not noise but temp coeff

v1  1 0  dc 100 ac=1

b2  2 0  i=v(1) tc1=0.001
v2  0 2  0

b3  3 0  v=v(1) tc1=0.001

.temp 127.0

.control
op
let idc2=i(v2)
let vdc3=v(3)
print idc2 vdc3

ac dec 1 1kHz 1kHz
let iac2=i(v2)
let vac3=v(3)
print iac2 vac3

.endc
